US09227956B2
tert-butyl (3R)-3-[(4-bromobenzoyl)(1-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)amino]piperidine-1-carboxylate
To a solution of Preparation 4 (R)-tert-butyl 3-((1-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)amino)piperidine-1-carboxylate (45.0 g, 136 mmol) and 4-bromobenzoyl chloride (31.3 g, 143 mmol) in dry THF (250 mL) was added 1 M lithium bis(trimethylsilyl)amide (163 mL, 163 mmol) dropwise at 0° C. The reaction mixture was warmed to room temperature and stirred for 15 h. The reaction was quenched with aqueous NH4Cl and extracted with EtOAc (3×500 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo. The residue was purified by recrystallization (petroleum ether:EtOAc=2:1) to afford the title compound as an off-white solid (50 g, 72%).

reactant | (R)-tert-butyl 3-((1-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)amino)piperidine-1-carboxylate | 136 mmol, 45.0 g | CN1C=CC=2C1=C(N=CC2)N[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C18H26N4O2
reactant | 4-bromobenzoyl chloride | 143 mmol, 31.3 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | lithium bis(trimethylsilyl)amide | 163 mmol, 1 M, 163 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | tert-butyl (3R)-3-[(4-bromobenzoyl)(1-methyl-1H-pyrrolo[2,3-c]pyridin-7-yl)amino]piperidine-1-carboxylate | 50 g, 72% | BrC1=CC=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=2N=CC=C3C2N(C=C3)C)C=C1 | C25H29BrN4O3
